US07402680B2
4-(1-Benzyl-1,4,5,6,7,8-hexahydro-1,2,6-triaza-azulen-3-yl)-benzonitrile
To a solution of 1-benzyl-3-trifluoromethanesulfonyloxy-4,5,7,8-tetrahydro-1H-1,2,6-triaza-azulene-6-carboxylic acid tert-butyl ester (Example 43, Step C; 0.30 g) in 9 mL of 1,4-dioxane was added 0.20 g of K3PO4, 0.10 g of 4-cyanophenylboronic acid, and 0.05 g of PdCl2dppf. The mixture was heated at reflux for 72 h. The mixture was filtered through diatomaceous earth and concentrated in vacuo to give 0.33 g of an orange solid. Chromatography on SiO2 (5 to 30% EtOAc/hexanes) afforded 0.21 g of a 7:1 mixture of 1-benzyl-3-(4-cyano-phenyl)-4,5,7,8-tetrahydro-1H-1,2,6-triaza-azulene-6-carboxylic acid tert-butyl ester and a side product, 1-benzyl-4,5,7,8-tetrahydro-1H-1,2,6-triaza-azulene-6-carboxylic acid tert-butyl ester. The mixture of compounds (0.21 g) was dissolved in 7 mL CH2Cl2 and 7 mL of TFA was added. The mixture was stirred at RT for 1 h and concentrated in vacuo. The crude product was dissolved in CH2Cl2 and treated with Dowex® 550A resin. After stirring for 2 h, the mixture was filtered and concentrated in vacuo. Chromatography using a C18 reverse phase column afforded 0.14 g of the title compound as its TFA salt. MS (ESI): exact mass calculated for C21H20N4, 328.17; found, m/z 329.1 [M+H]+, 351.1 [M+Na]+. 1H NMR (500 MHz, CD3OD): 7.83-7.81 (m, 2H), 7.76-7.74 (m, 2H), 7.36-7.28 (m, 3H), 7.19-7.17 (m, 2H), 5.46 (s, 2H), 3.39-3.37 (m, 4H), 3.15-3.09 (m, 4H).

reactant | 1-benzyl-3-(4-cyano-phenyl)-4,5,7,8-tetrahydro-1H-1,2,6-triaza-azulene-6-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1CCC=2C(=NN(C2CC1)CC1=CC=CC=C1)C1=CC=C(C=C1)C#N | C26H28N4O2
reactant | 1-benzyl-4,5,7,8-tetrahydro-1H-1,2,6-triaza-azulene-6-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1CCC=2C=NN(C2CC1)CC1=CC=CC=C1 | C19H25N3O2
reactant | TFA | 7 mL | C(=O)(C(F)(F)F)O | C2HF3O2
solvent | CH2Cl2 | 7 mL | C(Cl)Cl | CH2Cl2
product | 4-(1-Benzyl-1,4,5,6,7,8-hexahydro-1,2,6-triaza-azulen-3-yl)-benzonitrile | 0.14 g | C(C1=CC=CC=C1)N1N=C(C=2CCNCCC12)C1=CC=C(C#N)C=C1 | C21H20N4
